US07776897B2
Sodium hydride (55% oily, 13 mg) was suspended in DMF (2 ml) and then N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}benzensulfonamide (100 mg) and methyl iodide (0.017 ml) were added thereto under ice cooling, followed by stirring at room temperature for 7 hours. The reaction solution was diluted with water (30 ml) and then extracted with chloroform (15 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting solid washed with diethyl ether to obtain 81 mg of N-methyl-N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}benzensulfonamide (white solid).

reactant | Sodium hydride | 13 mg | [H-].[Na+]
reactant | N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}benzensulfonamide | 100 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)NS(=O)(=O)C1=CC=CC=C1 | C19H22N4O2S
reactant | methyl iodide | 0.017 ml | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | N-methyl-N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}benzensulfonamide | 81 mg | CN(S(=O)(=O)C1=CC=CC=C1)C(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)C | C20H24N4O2S
